US09353107B2
Step-i tert-butyl 4-(3-bromophenoxyl)piperidine-1-carboxylate
The mixture of 3-bromophenol (2.0 g, 11.56 mmol), tert-butyl 4-((methylsulfonyl)oxy)piperidine-1-carboxylate (3.87 g, 13.872 mmol) and caesium carbonate (11.27 g, 34.68 mmol) in DMF (25 ml) was heated at 65° C. for 14 hours. Cooled to RT and diluted with ether. Ether layer was washed with water and brine, dried over sodium sulphate and distilled off the solvent to afford 3.5 g (85.3% yield) of the titled product after purification with (60/120 silica gel) column chromatography using 5% ethyl acetate in hexane as eluent. MS: m/z=356.0 (M+1).

reactant | 3-bromophenol | 11.56 mmol, 2.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | tert-butyl 4-((methylsulfonyl)oxy)piperidine-1-carboxylate | 13.872 mmol, 3.87 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | caesium carbonate | 34.68 mmol, 11.27 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | tert-butyl 4-(3-bromophenoxyl)piperidine-1-carboxylate | 3.5 g, 85.3% yield | BrC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C16H22BrNO3
